US08309581B2
4-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-benzonitrile
The title compound was prepared in analogy to Example 5, intermediate a, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) and 4-bromomethyl-benzonitrile (CAS Reg. No. 17201-43-3). Light brown powder (65%). MS (Turbo Spray): m/z=492.2 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | 4-bromomethyl-benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
product | 4-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-benzonitrile | ClC=1C=CC(=C(OCC2=CC=C(C#N)C=C2)C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C28H24ClF2N3O
